US06335353B1
1,6-Dimethyl-2-(1-ethoxymethyl)-3-benzyloxy-pyridin-4(1H)-one
In an analogous procedure in the preparation of 1-ethyl-2-methoxymethyl-3-benzyloxy-pyridin-4(1H)-one using 2-(1-ethoxymethyl)-3-benzyloxy-6-methyl-pyran-4(1H)-one 5.76 g (20 mmol, 1 eq.) and 4.65 g (60 mmol, 3 eq.) of 40% aqueous methylamine yielded the title compound (3.68 g, 61.1%) after purification by column chromatography on silica gel (eluant: 15% CH3OH/85% CHCl3) as a yellow oil.

reactant | 1-ethyl-2-methoxymethyl-3-benzyloxy-pyridin-4(1H)-one | C(C)N1C(=C(C(C=C1)=O)OCC1=CC=CC=C1)COC | C16H19NO3
reactant | 2-(1-ethoxymethyl)-3-benzyloxy-6-methyl-pyran-4(1H)-one | 20 mmol, 5.76 g, 1 eq. | C(C)OCC=1OC(=CC(C1OCC1=CC=CC=C1)=O)C | C16H18O4
reactant | methylamine | 60 mmol, 4.65 g, 3 eq. | CN | CH5N
product | 1,6-Dimethyl-2-(1-ethoxymethyl)-3-benzyloxy-pyridin-4(1H)-one | 3.68 g, 61.1% | CN1C(=C(C(C=C1C)=O)OCC1=CC=CC=C1)COCC | C17H21NO3
